US09447106B2
Step 2: 1-Benzyl-1H-pyrazole-4-carboxylic acid
A mixture of ethyl 1-benzyl-1H-pyrazole-4-carboxylate (53.0 g, 0.23 mol) and LiOH (19.4 g, 0.46 mol) in THF (100 mL) and H2O (100 mL) was stirred at refluxed for 6 h. Then, THF was removed, the residue was acidify by 6 N HCl, precipitation was formed, filtered and dried to give the desired compound as a white solid (44.0 g, 92.8%). 1H NMR (DMSO-d6) δ 12.36 (s, 1H), 8.39 (s, 1H), 7.85 (s, 1H), 7.38-7.27 (m, 5H), 5.37 (s, 2H). MS (ESI) m/e [M+1]+ 202.9.

reactant | ethyl 1-benzyl-1H-pyrazole-4-carboxylate | 0.23 mol, 53.0 g | C(C1=CC=CC=C1)N1N=CC(=C1)C(=O)OCC | C13H14N2O2
reactant | LiOH | 0.46 mol, 19.4 g | [Li+].[OH-]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | H2O | 100 mL | O | H2O
product | 1-Benzyl-1H-pyrazole-4-carboxylic acid | 44.0 g, 92.8% | C(C1=CC=CC=C1)N1N=CC(=C1)C(=O)O | C11H10N2O2
